US07645776B2
(R)-3-{5-[1-(2-Phenoxy-acetyl)-piperidin-2-yl]-1H-[1,2,4]triazol-3-yl}-benzonitrile
1.3 mmol (R)-3-{5-[1-(2-Phenoxy-acetyl)-piperidin-2-yl]-1H-[1,2,4]triazol-3-yl}-benzamide were treated with neat trifluoroacetic anhydride at room temperature overnight. The reaction was quenched with aqueous NaHCO3 and product extracted with ethylacetate twice. The organic layers were washed with water/NaCl, combined, dried over Na2SO4 and the solvent evaporated. The product was purified via preparative HPLC.

reactant | (R)-3-{5-[1-(2-Phenoxy-acetyl)-piperidin-2-yl]-1H-[1,2,4]triazol-3-yl}-benzamide | 1.3 mmol | O(C1=CC=CC=C1)CC(=O)N1[C@H](CCCC1)C1=NC(=NN1)C=1C=C(C(=O)N)C=CC1 | C22H23N5O3
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | (R)-3-{5-[1-(2-Phenoxy-acetyl)-piperidin-2-yl]-1H-[1,2,4]triazol-3-yl}-benzonitrile | O(C1=CC=CC=C1)CC(=O)N1[C@H](CCCC1)C1=NC(=NN1)C=1C=C(C#N)C=CC1 | C22H21N5O2
